* BEGIN MODEL PA340 PSPICE COMPATIBLE
* PINOUT ORDER +IN -IN +V -V OUT COMP COMP
* PINOUT ORDER  2   1   3  4  5    6    7
.SUBCKT PA340 2 1 3 4 5 6 7
R1 8 3 2650
R2 9 3 2650
R3 10 11 900
R4 10 12 900
I2 10 4 2.7E-4
R5 4 10 2.14E8
C2 8 9 4E-12
G1 6 13 9 8 -7.77E-4
Q5 3 14 15 QON
Q4 3 16 17 QON
Q6 4 18 19 QOP
Q3 4 16 20 QOP
R13 18 17 R2M 65
R14 19 21 R2M 65
R12 21 15 R1M 65
R11 20 14 R1M 65
I3 3 14 240E-6
I4 18 4 240E-6
G2 6 13 10 4 9E-10
G3 7 13 13 6 -1.25
C3 6 7 12.26E-12
D2 13 6 DD
D1 6 13 DD
R6 13 6 1E5
R15 5 21 0.1
R8 22 7 50
C1 10 4 1.01E-12
C4 22 13 8E-12
R7 13 7 1E3
M2 8 1 11 11 MI2
M1 9 2 12 12 MI
Q8 23 24 5 QLP
D5 14 25 DL
D6 23 18 DL
V1 26 27 3
V2 28 29 4
D3 30 27 DD
D4 28 31 DD
I6 1 13 50E-12
I5 2 13 55E-12
C43 1 13 3E-12
C44 2 13 3E-12
I7 0 32 1E-3
D9 32 0 DT
V3 32 33 0.6551
R16 0 32 1E9
E5 30 7 33 0 2
R17 0 33 1E9
R18 0 33 1E9
R19 30 26 1E9
E6 7 31 33 0 0.75
R20 29 31 1E9
R58 16 22 150
C54 16 13 8E-12
E4 13 29 3 29 0.5
I1 3 4 1.13E-3
R9 34 21 1E3
R10 24 21 1E3
Q7 25 34 5 QLN
D10 5 3 DOC
D11 4 5 DOC
E2 26 0 3 0 1
E3 29 0 4 0 1
R131 4 3 4.125E6
D21 21 15 DZ1
D22 19 21 DZ2
.MODEL R1M RES TC1=2E-2 TC2=1.55E-4
.MODEL R2M RES TC1=8E-3 TC2=5E-5
.MODEL MI NMOS KP=4E-3 IS=3E-16 VTO=0.988
.MODEL MI2 NMOS KP=4E-3 IS=3E-16 VTO=1
.MODEL DZ1 D BV=22 IBV=1E-3
.MODEL DZ2 D BV=16 IBV=1E-3
.MODEL DT D
.MODEL DOC D CJO=10E-12 IS=1.2E-15 RS=2.4
.MODEL DD D CJO=0.1E-12 IS=1E-17
.MODEL DL D CJO=3E-12 IS=1E-14
.MODEL QON NPN BF=513 IS=1E-14 RC=25
.MODEL QOP PNP BF=513 IS=1E-14 RC=25
.MODEL QLN NPN BF=100 IS=1E-16
.MODEL QLP PNP BF=100 IS=2E-15
.ENDS
* END MODEL PA340
